US07655643B2
5-Bromo-2-methylbenzaldehyde
77.7 g (583 mmol) of aluminium trichloride are suspended in 200 ml of dichloromethane and cooled to 0° C. 40.0 g (333 mmol) of 2-methylbenzaldehyde are added dropwise over the course of 30 min. Then 53.2 g (333 mmol) of bromine are added at 0° C. over the course of 6 h, and the mixture is allowed to warm to RT and is stirred for 12 h. The reaction solution is added to 500 ml of ice-water. The aqueous phase is extracted several times with dichloromethane. The combined organic phases are washed successively with 2N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulfate and concentrated in vacuo. Purification is by silica gel chromatography and subsequently by crystallization from cyclohexane. The precipitated product is filtered off.

reactant | aluminium trichloride | 583 mmol, 77.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-methylbenzaldehyde | 333 mmol, 40.0 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | bromine | 333 mmol, 53.2 g | BrBr | Br2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-Bromo-2-methylbenzaldehyde | BrC=1C=CC(=C(C=O)C1)C | C8H7BrO
